US07202363B2
1-Methyl-1H-indole-2-carboxylic acid {4-[4-amino-7-(6-hex-1-ynyl)-thieno[3,2-c]pyridine-3-yl-2-methyoxy-phenyl}-amide
A solution of N-(4-{4-amino-7-[6-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)hex-1-ynyl]thieno[3,2-c]pyridin-3-yl}-2-methoxyphenyl)-1-methyl-1H-indole-2-carboxamide (0.078 g, 0.119 mmol) in ethanol (5 mL) was treated with hydrazine monohydrate (0.048 g, 0.955 mmol). The reaction mixture was stirred for 15 hours at 50° C. The solvent was removed under reduced pressure. The compound was purified by preparative HPLC to afford 0.007 g (10%) the title compound. 1H NMR (DMSO-d6, 400 MHz) δ 9.463 (s, 1H), 8.05–7.98 (m, 1H), 7.94 (s, 1H), 7.65–7.6 (m, 1H), 7.561–7.519 (m, 2H), 7.304–7.265 9 (m, 2H), 7.124 (s, 1H), 7.104–7.084 (m, 1H), 7.046–7.021 (m, 1H), 5.736 (brs, 2H), 3.99 (s, 3H), 3.867 (s, 3H), 2.7–2.6 (m, 2H), 2.58–2.5 (m, 2H), 1.6 (m, 4H); LCMS (Conditions a) Rt 3.45 min (95%), M+ 524.6.

reactant | N-(4-{4-amino-7-[6-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)hex-1-ynyl]thieno[3,2-c]pyridin-3-yl}-2-methoxyphenyl)-1-methyl-1H-indole-2-carboxamide | 0.119 mmol, 0.078 g | NC1=NC=C(C2=C1C(=CS2)C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC)C#CCCCCN2C(C1=CC=CC=C1C2=O)=O | C38H31N5O4S
reactant | hydrazine monohydrate | 0.955 mmol, 0.048 g | O.NN
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 1-Methyl-1H-indole-2-carboxylic acid | 0.007 g, 10% | CN1C(=CC2=CC=CC=C12)C(=O)O | C10H9NO2
